US08614209B2
Iodine (0.774 g, 3.0 mmol) was dissolved in DCM (5 mL) then isoamyl nitrite (0.682 mL, 5.1 mmol) was added followed by the slow addition of 3-amino-5-methyl-pyrazole-1-carboxylic acid tert-butyl ester (0.50 g, 2.54 mmol) as a solution in DCM (4 mL). The reaction mixture was stirred at room temperature for 1.5 hours and then poured onto saturated sodium thiosulfate solution. The phases were separated and the aqueous layer was extracted with DCM (×3). The organics were washed with brine then dried over sodium sulfate, filtered and evaporated. The crude material was purified by chromatography on a silica II cartridge, eluting with 2-6% ethyl acetate in pentane to give 3-iodo-5-methyl-pyrazole-1-carboxylic acid tert-butyl ester as a solid (0.13 g).

reactant | Iodine | 3.0 mmol, 0.774 g | II | I2
reactant | isoamyl nitrite | 5.1 mmol, 0.682 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | 3-amino-5-methyl-pyrazole-1-carboxylic acid tert-butyl ester | 2.54 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1N=C(C=C1C)N | C9H15N3O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-iodo-5-methyl-pyrazole-1-carboxylic acid tert-butyl ester | 0.13 g | C(C)(C)(C)OC(=O)N1N=C(C=C1C)I | C9H13IN2O2
